US05814653
6-benzyloxy-3-(2-(1-methyl-1H-pyrazol-4-yl)ethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
To a solution of 1.00 gm (3.422 mMol) 6-benzyloxy-3-amino-1,2,3,4-tetrahydro-9H-carbazole in 50 mL acetonitrile were added 1.04 gm (7.53 mMol) potassium carbonate followed by 1.26 gm (6.16 mMol) 2-(1-methyl-1H-pyrazol-4-yl)-1-mesyloxyethane and the reaction mixture was heated to reflux for 18 hours. To the reaction mixture were then added 0.021 gm (0.171 mMol) 4-dimethylaminopyridine and reflux was continued for 36 additional hours. The reaction mixture was cooled to room temperature and then partitioned between dichloromethane and water. The aqueous phase was extracted well with dichloromethane. All of the organic phases were combined, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with 2.5% methanol in dichloromethane containing 0.5% ammonium hydroxide. Fractions shown to contain product were concentrated under reduced pressure to give 0.610 gm (44%) of the desired compound.

reactant | 6-benzyloxy-3-amino-1,2,3,4-tetrahydro-9H-carbazole | 3.422 mMol, 1.00 gm | C(C1=CC=CC=C1)OC=1C=C2C=3CC(CCC3NC2=CC1)N | C19H20N2O
reactant | potassium carbonate | 7.53 mMol, 1.04 gm | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(1-methyl-1H-pyrazol-4-yl)-1-mesyloxyethane | 6.16 mMol, 1.26 gm | CN1N=CC(=C1)CCOS(=O)(=O)C | C7H12N2O3S
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 0.171 mMol, 0.021 gm | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-benzyloxy-3-(2-(1-methyl-1H-pyrazol-4-yl)ethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.610 gm, 44% | C(C1=CC=CC=C1)OC=1C=C2C=3CC(CCC3NC2=CC1)NCCC=1C=NN(C1)C | C25H28N4O
